US06306861B1
c) Methyl 2-acetyl-3-benzoyloxythiophene-4-carboxylate (Compound 1C)
3.48 mL of benzoyl chloride was added dropwise to a solution of 5.0 g of methyl 2-acetyl-3-hydroxythiophene-4-carboxylate (prepared as described in J. Chem. Soc. Perkin Trans I, 1986, 507) and 3.66 g of 4-dimethylaminopyridine in 100 mL of dichloromethane at 20-25° C. and stirred for 2 hours. The mixture was washed with 0.5N hydrochloric acid, water (2×20 mL), 2.5% aqueous sodium bicarbonate (2×40 mL) and water (2×20 mL). The organic layer was dried with sodium sulphate, evaporated to dryness in vacuo and purified by flash chromatography using chloroform/ethyl-acetate (100:1). The yield of Compound 1C was 7.089, as a yellow deliquescent solid, which was used in the next step without further purification.

reactant | benzoyl chloride | 3.48 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methyl 2-acetyl-3-hydroxythiophene-4-carboxylate | 5.0 g | C(C)(=O)C=1SC=C(C1O)C(=O)OC | C8H8O4S
catalyst | 4-dimethylaminopyridine | 3.66 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 2-acetyl-3-benzoyloxythiophene-4-carboxylate | C(C)(=O)C=1SC=C(C1OC(C1=CC=CC=C1)=O)C(=O)OC | C15H12O5S
